US09126979B2
4-Chloro-1-[2-((S)-3-hydroxymethyl-3,4-dihydro-1H-isoquinoline-2-carbonyl)-4-phenylcarbamoylmethoxy-phenyl]-5-methyl-1H-pyrazole-3-carboxylic acid dibutylamide
To a stirred solution of [4-(4-chloro-3-dibutylcarbamoyl-5-methyl-pyrazol-1-yl)-3-((S)-3-hydroxymethyl-3,4-dihydro-1H-isoquinoline-2-carbonyl)-phenoxy]-acetic acid (15 mg, 0.025 mmol) and aniline (3.4 uL, 0.037 mmol) in dichloromethane (0.2 mL) under nitrogen atmosphere was added 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide (7.1 mg, 0.037 mmol) and hydroxybenzotriazole (5.6 mg, 0.037 mmol). The mixture was stirred at ambient temperature for 5 minutes. Triethylamine (10 uL, 0.074 mmol) was added to the mixture. The reaction was stirred for 12 hours. After eluting through a short pad of silica gel column, the crude material was purified by HPLC to afford the title compound (8 mg, 50% yield). MS (ESI) [m/e, (M+H)+]=686.3. 1H NMR (400 MHz, chloroform-d) δ ppm 6.82-7.69 (m, 12H), 4.13-5.38 (m, 5H), 2.38-3.75 (m, 8H), 2.15-2.32 (m, 3H), 1.12-1.70 (m, 8H), 0.66-0.99 (m, 6H).

reactant | [4-(4-chloro-3-dibutylcarbamoyl-5-methyl-pyrazol-1-yl)-3-((S)-3-hydroxymethyl-3,4-dihydro-1H-isoquinoline-2-carbonyl)-phenoxy]-acetic acid | 0.025 mmol, 15 mg | ClC=1C(=NN(C1C)C1=C(C=C(OCC(=O)O)C=C1)C(=O)N1CC2=CC=CC=C2C[C@H]1CO)C(N(CCCC)CCCC)=O | C32H39ClN4O6
reactant | aniline | 0.037 mmol, 3.4 uL | NC1=CC=CC=C1 | C6H7N
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide | 0.037 mmol, 7.1 mg | C(C)N=C=NCCCN(C)C | C8H17N3
reactant | hydroxybenzotriazole | 0.037 mmol, 5.6 mg | OC1=CC=CC=2NN=NC21 | C6H5N3O
reactant | Triethylamine | 0.074 mmol, 10 uL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 0.2 mL | ClCCl | CH2Cl2
product | 4-Chloro-1-[2-((S)-3-hydroxymethyl-3,4-dihydro-1H-isoquinoline-2-carbonyl)-4-phenylcarbamoylmethoxy-phenyl]-5-methyl-1H-pyrazole-3-carboxylic acid dibutylamide | 8 mg, 50% yield | C(CCC)N(C(=O)C1=NN(C(=C1Cl)C)C1=C(C=C(C=C1)OCC(NC1=CC=CC=C1)=O)C(=O)N1CC2=CC=CC=C2C[C@H]1CO)CCCC | C38H44ClN5O5
